US05114940
Ethyl bromofluoroacetate (ex Fluorochem) (25 g) and triethyl phosphite (ex Aldrich) (29 g) were heated together at 140-5° for 6 hours in a vessel equipped with a fractionating column. When all the ethyl bromide had distilled off the residue was distilled to give triethyl 2-fluoro-2-phosphonoacetate (22 g) (bp 98°-108° at 0.8 mm). The latter (20 g) was added dropwise to hexane washed sodium hydride (3.3 g) of 60% dispersion) in dry ether (85 ml). After 3 hours at room temperature and 30 mins under reflux, acetone (6.1 ml) was added and the mixture stirred for 4 days at room temperature under nitrogen. After conventional work up the crude product was distilled to give ethyl 2-fluoro-3-methyl-but-2-enoate (4 g) (bp. 60°-2° at 15 mm). (Ref. Machleidt & Wessendorf, Ann. 674, 1, (1964)).

reactant | Ethyl bromofluoroacetate | 25 g | BrC(C(=O)OCC)F | C4H6BrFO2
reactant | triethyl phosphite | 29 g | P(OCC)(OCC)OCC | C6H15O3P
product | triethyl 2-fluoro-2-phosphonoacetate | 22 g | CCOC(=O)C(F)P(=O)(OCC)OCC | C8H16FO5P
